US07737166B2
6-(2-Bromoacetyl)-2-cyclopropyl-7-methoxy-5-methyl-1,3-benzoxazole-4-carbonitrile (I-85)
2-Cyclopropyl-6-[1-(ethoxy)ethenyl]-7-methoxy-5-methyl-1,3-benzoxazole-4-carbonitrile (I-84) (2.58 g, 8.46 mmol) was dissolved in tetrahydrofuran (130 ml), water (7.7 ml) and N-bromosuccinimide (1.61 g, 8.89 mmol) were added all at a time, followed by stirring at room temperature for 1.5 hours. After the reaction, the solvent was evaporated away under reduced pressure, followed by dilution with ethyl acetate and by washing with water and saturated brine. The obtained organic layer was dried over anhydrous sodium sulfate, the solvent was evaporated away under reduced pressure. The resulting residue was subjected to silica gel column chromatography (covering) and eluted with a mixed solvent of n-hexane/ethyl acetate (2:1, v/v) to obtain the entitled compound (2.40 g, 81%) as a yellow white solid.

reactant | 2-Cyclopropyl-6-[1-(ethoxy)ethenyl]-7-methoxy-5-methyl-1,3-benzoxazole-4-carbonitrile | 8.46 mmol, 2.58 g | C1(CC1)C=1OC=2C(N1)=C(C(=C(C2OC)C(=C)OCC)C)C#N | C17H18N2O3
reactant | water | 7.7 ml | O | H2O
reactant | N-bromosuccinimide | 8.89 mmol, 1.61 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | tetrahydrofuran | 130 ml | O1CCCC1 | C4H8O
product | 6-(2-Bromoacetyl)-2-cyclopropyl-7-methoxy-5-methyl-1,3-benzoxazole-4-carbonitrile | 2.40 g, 81% | BrCC(=O)C=1C(=C2C(N=C(O2)C2CC2)=C(C1C)C#N)OC | C15H13BrN2O3
